US04343811
2-[3-(4-Chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid dipropylamide
The compound was prepared from 2-[3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid and dipropylamine using a procedure analogous to that of Example 130.

reactant | 2-[3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)OC(C(=O)O)(C)C)C)C | C20H20ClNO3
reactant | dipropylamine | C(CC)NCCC | C6H15N
product | 2-[3-(4-Chlorophenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid dipropylamide | C(CC)N(C(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)C)C)C1=CC=C(C=C1)Cl)=O)CCC | C26H33ClN2O2
